US05686615
Cis-3-amino2-phenylpiperidine
In a bottle were placed 2.65 g (15.6 mmol) of 3-amino-2-phenylpyridine, 10.6 g of 5% platinum/carbon and 106 mL of 1.5 M HCl in methanol. The mixture was shaken under an atmosphere (ca. 40 p.s.i.) of hydrogen for 2.5 hours. Water was added to the system, the mixture was filtered through a pad of diatomaceous earth and the pad was rinsed with ca. 700 mL of water. The filtrate was made basic with solid sodium hydroxide and extracted with two portions of dichloromethane. The combined organic fractions were washed with water, dried (sodium sulfate) and concentrated with a rotary evaporator to obtain 2.4 g of the title compound as a yellow oil.

reactant | 3-amino-2-phenylpyridine | 15.6 mmol, 2.65 g | NC=1C(=NC=CC1)C1=CC=CC=C1 | C11H10N2
reactant | HCl | 1.5 M, 106 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | Water | O | H2O
solvent | methanol | CO | CH4O
catalyst | platinum/carbon | 10.6 g | [Pt] | Pt
product | Cis-3-amino2-phenylpiperidine | 2.4 g | N[C@@H]1[C@@H](NCCC1)C1=CC=CC=C1 | C11H16N2
